US07326786B2
Similar procedure as described in example 1b was used, starting from 2-methylsulfanyl-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one, trans-2-phenyl-cyclopropylamine hydrochloride and DIEA to give 2-((1R,2S)-2-phenyl-cyclopropylamino)-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one. LC-MS m/e 372 (MH+).

reactant | 2-methylsulfanyl-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one | CSC=1S\C(\C(N1)=O)=C/C=1C=C2C=CC=NC2=CC1 | C14H10N2OS2
reactant | trans-2-phenyl-cyclopropylamine hydrochloride | Cl.C1(=CC=CC=C1)[C@H]1[C@@H](C1)N
reactant | DIEA | CCN(C(C)C)C(C)C | C8H19N
product | 2-((1R,2S)-2-phenyl-cyclopropylamino)-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one | C1(=CC=CC=C1)[C@H]1[C@@H](C1)NC=1S\C(\C(N1)=O)=C/C=1C=C2C=CC=NC2=CC1 | C22H17N3OS
